US04731471
1-Carboxy-1-methylethyl {[9a-(acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]-oxy}acetate
{[9a-(Acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid (4.13 g, 10 mMole) is dissolved in dry tetrahydrofuran (20 ml). 1,1'-Carbonyldiimidazole (3.2 g, 10 mMole) is added and the mixture stirred at 20° C. for an hour. 2-Hydroxy-2-methylpropionic acid (1.05 g, 10 mMole) is added and the mixture stirred for 18 hours at 20° C. The solvent is removed by evaporation in vacuo. The residue is dissolved in methylene chloride, washed with water and dried over MgSO4. The solvent is removed by evaporation in vacuo and the residue purified by chromatography using a silica gel column with methylene chloride/tetrahydrofuran/acetic acid 100/2/1 (V.V.V.) as the eluent. Selecting the appropriate cuts gave the desired compound upon evaporation of the solvent in vacuo.

reactant | {[9a-(Acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | 10 mMole, 4.13 g | C(C)(=O)OCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)O | C19H18Cl2O6
reactant | 1,1'-Carbonyldiimidazole | 10 mMole, 3.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Hydroxy-2-methylpropionic acid | 10 mMole, 1.05 g | OC(C(=O)O)(C)C | C4H8O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Carboxy-1-methylethyl {[9a-(acetoxyethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]-oxy}acetate | C(C)(=O)OCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)OC(C)(C)C(=O)O | C23H24Cl2O8
